US07138425B2
b) 2-(3-Nitro-6-fluorophenyl)-5,7-dichlorobenzoxazole
Prepared by the method of Example 15b), from N-(2-hydroxy-3,5-dichlorophenyl)-2-fluoro-5-nitrobenzamide (798 g, 2.3 mmol) and p-toluenesulfonic acid monohydrate (961 g, 5.1 mmol) the subtitle compound was obtained (597 mg, 79%). 1H NMR (DMSO) δ 9.00(t, 1H), 8.78(s, 1H), 8.24(dd, 1H), 7.97(s, 1H), 7.77(s, 1H), 7.09(d, 1H), 3.46(q, 2H), 1.73(m, 2H), 1.04(t, 3H).

reactant | N-(2-hydroxy-3,5-dichlorophenyl)-2-fluoro-5-nitrobenzamide | 2.3 mmol, 798 g | OC1=C(C=C(C=C1Cl)Cl)NC(C1=C(C=CC(=C1)[N+](=O)[O-])F)=O | C13H7Cl2FN2O4
reactant | p-toluenesulfonic acid monohydrate | 5.1 mmol, 961 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 2-(3-Nitro-6-fluorophenyl)-5,7-dichlorobenzoxazole | [N+](=O)([O-])C=1C=C(C(=CC1)F)C=1OC2=C(N1)C=C(C=C2Cl)Cl | C13H5Cl2FN2O3
